US06136823
Synthesis of 1-(5-Amino-2,4-difluorophenyl)-7-methylamino-6-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
1-(5-Amino-2,4-difluorophenyl)-7-fluoro-6-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (100 mg) was added to a mixed liquid of a 40% aqueous solution (120 mg) of methylamine and pyridine (3 ml), and the mixture was stirred at room temperature for 3 hours. The solvent was distilled off under reduced pressure. The residue was acidified with 3% citric acid, and solids formed were collected by filtration. The solids were washed with water, ethanol and hexane to obtain the title compound (70 mg) as a yellow powder.

reactant | 1-(5-Amino-2,4-difluorophenyl)-7-fluoro-6-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 100 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C=C12)F)[N+](=O)[O-])=O)C(=O)O)F)F | C16H8F3N3O5
reactant | methylamine | CN | CH5N
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 1-(5-Amino-2,4-difluorophenyl)-7-methylamino-6-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 70 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C=C12)NC)[N+](=O)[O-])=O)C(=O)O)F)F | C17H12F2N4O5
